US07517875B2
A solution of [2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-methanol (467 mg, 0.71 mmol) in dimethylsulfoxide (5 ml) was added to a solution of 297 mg of 1-hydroxy-1-oxo-1H-1λ5-benzo[d][1,2]iodoxol-3-one (1.06 mmol) in dimethylsulfoxide (5 ml), and the mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into ice water (200 ml) and stirred at room temperature for 30 minutes, after which ethyl acetate was added and stirring was continued vigorously for 10 minutes for extraction. After washing with saturated aqueous sodium bicarbonate and then with saturated brine, the mixture was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboaldehyde.

reactant | [2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-methanol | 0.71 mmol, 467 mg | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)CO)COCC[Si](C)(C)C | C37H56N4O3Si2
reactant | 1-hydroxy-1-oxo-1H-1λ5-benzo[d][1,2]iodoxol-3-one | 1.06 mmol, 297 mg | OI1(OC(C2=C1C=CC=C2)=O)=O | C7H5IO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboaldehyde | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C=O)COCC[Si](C)(C)C | C37H54N4O3Si2
